US06211234B1
Diisopropyl azodicarboxylate (8 g) is added portionwise to a stirred solution of triphenylphosphine (10.5 g) in THF (100 mL) at 0° C. under nitrogen. Stirring is continued at 0° C. for 15 minutes. A solution of 2-acetyl-5-(3-pyridylmethoxy)phenol (4.5 g) and tert-butyl (S)-4-hydroxy-4-(2-methylphenyl)butanoate (4.9 g) in THF (100 mL) is added at such a rate that the temperature does not exceed 5° C. The reaction is allowed to warm to ambient temperature stirred for 16 hours, then concentrated in vacuo. The residue is partitioned between ethyl acetate (200 mL) and water (200 mL) and the organic phase dried over magnesium sulphate, filtered and concentrated in vacuo.The residue is purified by flash chromatography on silica eluting initially with a mixture of ethyl acetate and cyclohexane (1:1 v/v) then with ethyl acetate. Fractions homogeneous in the required product are combined and evaporated to give t-butyl (R)-4-(2-acetyl-5-(3-pyridylmethoxy)phenoxy)-4-(2-methylphenyl)butanoate (2 g).

reactant | Diisopropyl azodicarboxylate | 8 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | triphenylphosphine | 10.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-acetyl-5-(3-pyridylmethoxy)phenol | 4.5 g | C(C)(=O)C1=C(C=C(C=C1)OCC=1C=NC=CC1)O | C14H13NO3
reactant | tert-butyl (S)-4-hydroxy-4-(2-methylphenyl)butanoate | 4.9 g | O[C@@H](CCC(=O)OC(C)(C)C)C1=C(C=CC=C1)C | C15H22O3
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | t-butyl (R)-4-(2-acetyl-5-(3-pyridylmethoxy)phenoxy)-4-(2-methylphenyl)butanoate | 2 g | C(C)(=O)C1=C(O[C@H](CCC(=O)OC(C)(C)C)C2=C(C=CC=C2)C)C=C(C=C1)OCC=1C=NC=CC1 | C29H33NO5
